### PR TITLE
[Merged by Bors] - chore(SetTheory/Ordinal/FixedPoint): Make sure simp lemma has a reasonable key

### PR DESCRIPTION
**Pull request by vihdzp**
This is the second most called `simp` lemma and never succeeds (see [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Infrastructure.20for.20tracking.20frequently.20applied.20simp.20theorems/near/459926416)]. It's also way too specific to be reasonably useful outside of the file itself.

Also did some pretty minor cleanup.

---

- [x] depends on: #15755

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
!bench

File: Mathlib/SetTheory/Ordinal/FixedPoint.lean [hunk 1]
```diff
@@ -368,7 +368,6 @@ def nfp (f : Ordinal → Ordinal) : Ordinal → Ordinal :=
 theorem nfp_eq_nfpFamily (f : Ordinal → Ordinal) : nfp f = nfpFamily fun _ : Unit => f :=
   rfl
 
-@[simp]
 theorem sup_iterate_eq_nfp (f : Ordinal.{u} → Ordinal.{u}) :
     (fun a => sup fun n : ℕ => f^[n] a) = nfp f := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/FixedPoint.lean:372]: Instead of unsimping, do you mind changing the statement to either
```suggestion
theorem sup_iterate_eq_nfp (f : Ordinal.{u} → Ordinal.{u}) :
    sup (fun n ↦ f^[n]) = nfp f := by
```
or
```suggestion
theorem sup_iterate_eq_nfp (f : Ordinal.{u} → Ordinal.{u}) (a : Ordinal.{u}) :
    sup (fun n ↦ f^[n] a) = nfp f a := by
```
? Possibly we want both

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/FixedPoint.lean:372]: The first one is definitely better, though I still don't think it's justified in being a simp lemma. Surely the second theorem is an immediate consequence of rewriting the first, right?

Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/FixedPoint.lean:372]: > I still don't think it's justified in being a simp lemma

I don't mind it not being simp, but at least it won't be a performance penalty since it will be keyed on (the rather uncommon) `Ordinal.sup`.

> Surely the second theorem is an immediate consequence of rewriting the first, right?

It is, but I can imagine you might want to rewrite an expression where eg both `nfp f a` and `nfp f b` appear, and you might not want to rewrite both. Or maybe you want to rewrite it backwards, in which case it's annoying having to call `iSup_apply` explicitly.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/FixedPoint.lean]: I've replaced the current funext version of `sup_iterate_eq_nfp ` by the applied version. It doesn't seem like the original was all that useful.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/FixedPoint.lean]: Oh, that's nice. Even more reason to do that refactor.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
